US06346527B1
To a mixture of ethyl 2,3-dihydro-7-iodo-1-benzoxepin-4-carboxylate (0.69 g), triethylamine (1.12 ml), 1,3-bis(diphenylphosphino)propane (0.165 g), and palladium(II) acetate (90 mg) in N,N-dimethylformamide (6.4 ml) was introduced carbon monoxide for 30 minutes. The reaction mixture was stirred for 5 hours at 95° C. in an atmosphere of carbon monoxide and partitioned between ethyl acetate and water. The organic layer was washed successively with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by medium pressure liquid chromatography (silica gel) using a mixture of ethyl acetate and n-hexane (1:4) to give a solid of ethyl 2,3-dihydro-7-methoxycarbonyl-1-benzoxepin-4-carboxylate (0.45 g).

reactant | ethyl 2,3-dihydro-7-iodo-1-benzoxepin-4-carboxylate | 0.69 g | IC=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C13H13IO3
reactant | triethylamine | 1.12 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(diphenylphosphino)propane | 0.165 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | carbon monoxide | [C]=O | CO
reactant | N,N-dimethylformamide | 6.4 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 90 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 2,3-dihydro-7-methoxycarbonyl-1-benzoxepin-4-carboxylate | 0.45 g | COC(=O)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C15H16O5
